US07429605B2
2-Methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(3-trifluoromethoxy-phenyl)-pyridine
17 mg (0.42 mmol) of 60% sodium hydride were added to at 0° C. to a solution of 87 mg (0.40 mmol) 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol in 6.0 ml N,N-dimethylformamide and stirred for 30 min. at 0° C. 120 mg (0.40 mmol) 3-chloromethyl-2-methyl-6-(3-trifluoromethoxy-phenyl)-pyridine were given to the reaction mixture and stirring continued at room temperature (r.t.) overnight. After addition of 12 ml water the mixture was stirred for 1 h, the formed precipitate isolated by filtration, washed with water, water/methanol 1:1, n-heptane, and ether. The residue was dried at 40° C. in vacuum to give 138 mg (71%) of the title compound as almost colorless powder.

reactant | sodium hydride | 0.42 mmol, 17 mg | [H-].[Na+]
reactant | 4-(4-[1,2,3]triazol-1-yl-butyl)-phenol | 0.40 mmol, 87 mg | N1(N=NC=C1)CCCCC1=CC=C(C=C1)O | C12H15N3O
reactant | 3-chloromethyl-2-methyl-6-(3-trifluoromethoxy-phenyl)-pyridine | 0.40 mmol, 120 mg | ClCC=1C(=NC(=CC1)C1=CC(=CC=C1)OC(F)(F)F)C | C14H11ClF3NO
reactant | water | 12 ml | O | H2O
solvent | N,N-dimethylformamide | 6.0 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-3-[4-(4-[1,2,3]triazol-1-yl-butyl)-phenoxymethyl]-6-(3-trifluoromethoxy-phenyl)-pyridine | 138 mg, 71% | CC1=NC(=CC=C1COC1=CC=C(C=C1)CCCCN1N=NC=C1)C1=CC(=CC=C1)OC(F)(F)F | C26H25F3N4O2
